US06140344
A solution of [1-(2-amino-3-methylbutyl)piperidin-4-yl]-(3,4-dichlorophenyl)methanone (30 mg) in dichloromethane (3 mL) was treated with trimethoxyphenyl-isocyanate (30 mg) and triethylamine (1 mL, 0.3 M in dichloromethane) was added and the reaction mixture was stirred at ambient temperature overnight. A polystyrene trisamine resin (approx. 0.5 g, 3.5 mmol/g) was added to capture excess isocyanate, and stirring was continued for an additional 2 h. The resin was filtered and the filtrate was concentrated. Purification by column chromatography gave 1-{1-[4-(3,4-dichloro-benzoyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea (27.5 mg).

reactant | [1-(2-amino-3-methylbutyl)piperidin-4-yl]-(3,4-dichlorophenyl)methanone | 30 mg | NC(CN1CCC(CC1)C(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C | C17H24Cl2N2O
reactant | trimethoxyphenyl-isocyanate | 30 mg | COC1=C(C(=C(C=C1)N=C=O)OC)OC | C10H11NO4
reactant | triethylamine | 0.3 M, 1 mL | C(C)N(CC)CC | C6H15N
reactant | isocyanate | [N-]=C=O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-{1-[4-(3,4-dichloro-benzoyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea | 27.5 mg | ClC=1C=C(C(=O)C2CCN(CC2)CC(C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C=CC1Cl | C27H35Cl2N3O5
